US06727256B1
(4-Phenoxyphenyl)-(7-(5-(1,3-dioxolan-2-yl)furan-2-yl)-quinolin-4-yl)amine
(4-Phenoxyphenyl)-(7-iodo-quinolin-4-yl)amine (2 g) was treated with 2-(tributylstannyl)-5-(1,3-dioxolan-2-yl)-furan (2.16 g) and tetrakis (triphenylphosphine) palladium (0) (0.26 g) in dimethylacetamide (20 ml) in accordance with Procedure B. Purification via column chromatography, eluting with ethyl acetate, followed by trituration with diethylether afforded a yellow solid (1.4 g); δH [2H6] DMSO 9.10 (1H, s), 8.45 (2H, m), 8.13 (1H, s), 7.96 (1H, d), 7.41 (4H, m), 7.22 (1H, d), 7.20-7.03 (5H, m), 6.83 (1H, d), 6.75 (1H, d), 6.02 (1H, s), 4.13 (2H, m), 4.01 (2H, m); m/z 451 (M+1)+.

reactant | (4-Phenoxyphenyl)-(7-iodo-quinolin-4-yl)amine | 2 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)I | C21H15IN2O
reactant | 2-(tributylstannyl)-5-(1,3-dioxolan-2-yl)-furan | 2.16 g | C(CCC)[Sn](C=1OC(=CC1)C1OCCO1)(CCCC)CCCC
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.26 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (4-Phenoxyphenyl)-(7-(5-(1,3-dioxolan-2-yl)furan-2-yl)-quinolin-4-yl)amine | 1.4 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C=1OC(=CC1)C1OCCO1 | C28H22N2O4
